US07312241B2
2-Methoxybenzaldehyde (0.81 g, 5.95 mmol), 1-bromo-3,5-dimethoxybenzene (1.42 g, 6.54 mmol), and n-butyl lithium (2.62 ml, 6.54 mmol) were treated in the same manner as described above for the synthesis of (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol. The crude material was purified via flash column chromatography (10% EtOAc in hexane gradient to 40% EtOAc in hexane in about 40 min.) to give (3,5-dimethoxy-phenyl)-(2-methoxy-phenyl)-methanol as a greenish oil (1.38 g, 85%): 1HNMR (CDCl3) 7.30-7.18 (m, 2H, Ar), 6.96-6.88 (m, 2H, Ar), 6.57 (d, J=1 Hz, 2H, Ar), 6.36 (t, J=2 Hz, 1H, Ar), 5.99 (d, J=5 Hz, 1H, CHOH), 3.84 (s, 3H, OCH3), 3.77 (s, 6H, 2OCH3), 3.04 (d, J=5 Hz, 1H, OH). The product was carried over to the next step.

reactant | 2-Methoxybenzaldehyde | 5.95 mmol, 0.81 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | 1-bromo-3,5-dimethoxybenzene | 6.54 mmol, 1.42 g | BrC1=CC(=CC(=C1)OC)OC | C8H9BrO2
reactant | n-butyl lithium | 6.54 mmol, 2.62 ml | C(CCC)[Li]
reactant | (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol | O1CCOC2=C1C=CC(=C2)C(O)C2=CC(=CC(=C2)OC)OC | C17H18O5
product | (3,5-dimethoxy-phenyl)-(2-methoxy-phenyl)-methanol | 1.38 g, 85% | COC=1C=C(C=C(C1)OC)C(O)C1=C(C=CC=C1)OC | C16H18O4
